US08376149B2
In a first step, a film of 100 cm2 with a thickness of 100 μm, dried beforehand at 110° C. under vacuum (10 mbar), was immersed in 200 ml of dichloroethane (DCE) and the whole mixture is brought to 60° C. In parallel, an anhydrous solution of trimethylsilyl chlorosulfonate was prepared by dissolving 47.2 g (0.434 moles) of trimethylsilane chloride and 42.2 g (0.36 moles) of ClSO3H, both the constituents being anhydrous, in 50 ml of dry DCE with magnetic stirring and under argon, for a duration of 30 minutes, with HCl formed being trapped.

reactant | trimethylsilane chloride | 0.434 moles, 47.2 g | [Cl-].C[SiH](C)C
reactant | ClSO3H | 0.36 moles, 42.2 g | ClS(=O)(=O)O | ClHO3S
reactant | HCl | Cl | ClH
solvent | DCE | 50 ml | ClC(C)Cl | C2H4Cl2
product | trimethylsilyl chlorosulfonate | ClS(=O)(=O)O[Si](C)(C)C | C3H9ClO3SSi
